Boolean_pex.spice 


* NGSPICE file created from Boolean.ext - technology: sky130A

.subckt INVX1_20_sept B1 ~B1 VDD VSS
X0 ~B1 B1 VSS VSS sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X1 ~B1 B1 VDD VDD sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
C0 ~B1 VDD 0.21285f
C1 B1 VDD 0.11562f
C2 B1 ~B1 0.02877f
C3 ~B1 VSS 0.32034f
C4 VDD VSS 0.70724f
.ends

.subckt Boolean Y A1 A2 B1 VDD VSS
XINVX1_20_sept_0 B1 ~B1 VDD VSS INVX1_20_sept
X0 a_94_101# A1 Y VSS sky130_fd_pr__nfet_01v8 ad=0.105 pd=1.2 as=0.063 ps=0.72 w=0.42 l=0.15
**devattr s=2520,144 d=5040,288
X1 Y ~B1 VDD VDD sky130_fd_pr__pfet_01v8 ad=0.16725 pd=1.415 as=0.28247 ps=2.365 w=1.115 l=0.15
**devattr s=13380,566 d=6690,283
X2 Y A1 a_94_101# VSS sky130_fd_pr__nfet_01v8 ad=0.063 pd=0.72 as=0.105 ps=1.2 w=0.42 l=0.15
**devattr s=5040,288 d=2520,144
X3 VDD A1 a_184_292# VDD sky130_fd_pr__pfet_01v8 ad=0.28247 pd=2.365 as=0.21046 ps=1.77125 w=1.115 l=0.15
**devattr s=6690,283 d=6913,285
X4 a_184_292# A1 VDD VDD sky130_fd_pr__pfet_01v8 ad=0.21046 pd=1.77125 as=0.28247 ps=2.365 w=1.115 l=0.15
**devattr s=13380,566 d=6690,283
X5 Y A2 a_184_292# VDD sky130_fd_pr__pfet_01v8 ad=0.16725 pd=1.415 as=0.21046 ps=1.77125 w=1.115 l=0.15
**devattr s=6913,285 d=6690,283
X6 a_184_292# A2 Y VDD sky130_fd_pr__pfet_01v8 ad=0.21046 pd=1.77125 as=0.16725 ps=1.415 w=1.115 l=0.15
**devattr s=6690,283 d=13380,566
X7 VDD A1 a_184_292# VDD sky130_fd_pr__pfet_01v8 ad=0.28247 pd=2.365 as=0.21046 ps=1.77125 w=1.115 l=0.15
**devattr s=6690,283 d=13380,566
X8 a_184_292# A1 VDD VDD sky130_fd_pr__pfet_01v8 ad=0.21046 pd=1.77125 as=0.28247 ps=2.365 w=1.115 l=0.15
**devattr s=6913,285 d=6690,283
X9 VSS ~B1 a_94_101# VSS sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=1.2 w=0.42 l=0.15
**devattr s=2520,144 d=5040,288
X10 VDD ~B1 Y VDD sky130_fd_pr__pfet_01v8 ad=0.28247 pd=2.365 as=0.16725 ps=1.415 w=1.115 l=0.15
**devattr s=6690,283 d=13826,570
X11 a_94_101# A2 Y VSS sky130_fd_pr__nfet_01v8 ad=0.105 pd=1.2 as=0.063 ps=0.72 w=0.42 l=0.15
**devattr s=2520,144 d=5040,288
X12 Y A2 a_94_101# VSS sky130_fd_pr__nfet_01v8 ad=0.063 pd=0.72 as=0.105 ps=1.2 w=0.42 l=0.15
**devattr s=5040,288 d=2520,144
X13 a_184_292# A2 Y VDD sky130_fd_pr__pfet_01v8 ad=0.21046 pd=1.77125 as=0.16725 ps=1.415 w=1.115 l=0.15
**devattr s=6690,283 d=6913,285
X14 Y A2 a_184_292# VDD sky130_fd_pr__pfet_01v8 ad=0.16725 pd=1.415 as=0.21046 ps=1.77125 w=1.115 l=0.15
**devattr s=13380,566 d=6690,283
X15 a_94_101# ~B1 VSS VSS sky130_fd_pr__nfet_01v8 ad=0.105 pd=1.2 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=2520,144
C0 a_94_101# Y 0.47737f
C1 B1 Y 0.01376f
C2 VDD A2 0.20507f
C3 VDD Y 1.36134f
C4 A1 a_94_101# 0.05187f
C5 VDD A1 0.28175f
C6 m1_193_109# a_184_292# 0.01642f
C7 a_184_292# ~B1 0
C8 m1_865_110# a_184_292# 0.00182f
C9 m1_193_109# A2 0
C10 A2 ~B1 0
C11 m1_865_110# A2 0.00252f
C12 m1_193_109# Y 0.01834f
C13 Y ~B1 0.09596f
C14 m1_865_110# Y 0.01601f
C15 B1 a_94_101# 0.03519f
C16 a_184_292# A2 0.10447f
C17 m1_193_109# A1 0.00283f
C18 VDD a_94_101# 0.43309f
C19 VDD B1 0.04036f
C20 a_184_292# Y 0.76075f
C21 Y A2 0.2089f
C22 A1 a_184_292# 0.09256f
C23 A1 A2 0.01214f
C24 m1_193_109# a_94_101# 0.06606f
C25 A1 Y 0.06879f
C26 a_94_101# ~B1 0.08026f
C27 m1_865_110# a_94_101# 0.09728f
C28 B1 ~B1 0.01198f
C29 m1_865_110# B1 0
C30 m1_193_109# VDD 0
C31 VDD ~B1 0.2462f
C32 a_184_292# a_94_101# 0.13067f
C33 B1 a_184_292# 0
C34 a_94_101# A2 0.07438f
C35 B1 A2 0.00993f
C36 VDD a_184_292# 1.85299f
C37 Y VSS 1.36951f
C38 m1_865_110# VSS 0.03161f ; **FLOATING
C39 m1_193_109# VSS 0.02936f ; **FLOATING
C40 a_94_101# VSS 1.73285f
C41 a_184_292# VSS 0.62234f
C42 B1 VSS 0.12858f
C43 VDD VSS 2.63212f
.ends
